US08877934B2
Step A: N-(2-Methyl-4-pyridyl)propane-1,3-diamine hydrochloride
4-Chloro-2-picoline (441 μl, 4 mmol) was mixed with 1,3-diaminopropane (1.67 ml, 20 mmol) and stirred in a closed vessel at 180° C. under microwave heating for one hour. The solvent was removed under reduced pressure, toluene was added to the residue and the mixture was evaporated to dryness under reduced pressure to yield 1.076 of a solid. MS (APCI) m/z=165.8 [M+H]+.

reactant | 4-Chloro-2-picoline | 4 mmol, 441 μl | ClC1=CC(=NC=C1)C | C6H6ClN
reactant | 1,3-diaminopropane | 20 mmol, 1.67 ml | NCCCN | C3H10N2
product | N-(2-Methyl-4-pyridyl)propane-1,3-diamine hydrochloride | Cl.CC1=NC=CC(=C1)NCCCN | InChI=1S/C9H15N3.ClH/c1-8-7-9(3-6-11-8)12-5-2-4-10;/h3,6-7H,2,4-5,10H2,1H3,(H,11,12);1H
